US06949579B2
418 mg of nitronium tetrafluoroborate are added to 4 g of N-(5-bromo-6-chloro-1H-indazol-3-yl)butanamide, described in Example 58, in 50 cm3 of acetonitrile at 0° C., and the mixture is stirred for 4 hours. 200 cm3 of ethyl acetate and 100 cm3 of saturated sodium hydrogen carbonate solution are added to the reaction medium. The organic phase is washed with 2×40 cm3 of saturated sodium hydrogen carbonate solution and then with 40 cm3 of saturated sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 50° C.) to give 840 mg of crude product, which is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3.5 cm), eluting with a cyclohexane/ethyl acetate mixture (80/20 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.) and then dried (90 Pa; 45° C.) to give 20 mg of N-(5-bromo-6-chloro-7-nitro-1H-indazol-3-yl)butanamide in the form of a yellow solid melting above 260° C.

reactant | nitronium tetrafluoroborate | 418 mg | F[B-](F)(F)F.O=[N+]=O
reactant | N-(5-bromo-6-chloro-1H-indazol-3-yl)butanamide | 4 g | BrC=1C=C2C(=NNC2=CC1Cl)NC(CCC)=O | C11H11BrClN3O
reactant | ethyl acetate | 200 cm3 | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | 100 cm3 | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 50 cm3 | C(C)#N | C2H3N
product | N-(5-bromo-6-chloro-7-nitro-1H-indazol-3-yl)butanamide | 20 mg | BrC=1C=C2C(=NNC2=C(C1Cl)[N+](=O)[O-])NC(CCC)=O | C11H10BrClN4O3
